### PR TITLE
Remove sorry: Prove realLorentzTensor.toComplex_equivariant

### PR DESCRIPTION
**Pull request by kastch**

### CODE REVIEW

File: PhysLean/Relativity/Tensors/RealTensor/ToComplex.lean [hunk 1]
```diff
@@ -83,6 +83,36 @@ def colorToComplex (c : realLorentzTensor.Color) : complexLorentzTensor.Color :=
...
+    realLorentzTensor.basis realLorentzTensor.Color.up = Lorentz.contrBasisFin (d := 3) := rfl
+
+lemma basis_eq_coBasisFin :
+    realLorentzTensor.basis realLorentzTensor.Color.down = Lorentz.coBasisFin (d := 3) := rfl
+
+lemma FD_obj_up :
+    realLorentzTensor.FD.obj { as := realLorentzTensor.Color.up } = Lorentz.Contr 3 := rfl
+
+lemma FD_obj_down :
+    realLorentzTensor.FD.obj { as := realLorentzTensor.Color.down } = Lorentz.Co 3 := rfl
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Tensors/RealTensor/ToComplex.lean]: I think these could be done done with been a different file (maybe the same where `realLorentzTensor` is defined?

File: PhysLean/Relativity/Tensors/RealTensor/ToComplex.lean [hunk 2]
```diff
@@ -235,11 +444,141 @@ Finally we record that `toComplex` is equivariant for the natural action of
...
+      erw [Lorentz.complexCoBasis_ρ_apply]
+      exact (toComplex_equivariant_slot_repr_down k h Λ b i).symm
+  · simp [P]
+  · intro r t ht
+    dsimp [P] at ht ⊢
+    rw [toComplex_map_smul, Tensor.actionT_smul (S := complexLorentzTensor), ht,
+      Tensor.actionT_smul (S := realLorentzTensor), toComplex_map_smul]
+  · intro t1 t2 h1 h2
+    dsimp [P] at h1 h2 ⊢
+    rw [map_add, Tensor.actionT_add (S := complexLorentzTensor), h1, h2,
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Tensors/RealTensor/ToComplex.lean:507]: What is your opinion on whether these proofs can be golfed or split into smaller lemmas which may be more generally useful?

**Review by jstoobysmith — COMMENTED** [review]
Sorry - was going to review this yesterday but didn't quite get around to it.

File: PhysLean/Relativity/Tensors/RealTensor/ToComplex.lean (hunk 2 above)
Comment (kastch) [reply PhysLean/Relativity/Tensors/RealTensor/ToComplex.lean:507]: Hi @jstoobysmith ! I've extracted some lemmas that make sense to reuse, others are more like one-purpose and technical, to make it through all lean formalities, but if you think that it requires more decomposition - please let me know.

File: PhysLean/Relativity/Tensors/ComplexTensor/SlotRepr.lean [hunk 3]
```diff
@@ -0,0 +1,86 @@
...
+
+@[expose] public section
+
+namespace complexLorentzTensor
+
+open TensorSpecies Tensor Lorentz Lorentz.SL2C Matrix MatrixGroups Complex CategoryTheory Module
+
+variable {n : ℕ} {c : Fin n → complexLorentzTensor.Color}
+
+/-- Basis coefficient for the Lorentz action on a contravariant (`up`) vector slot,
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Tensors/ComplexTensor/SlotRepr.lean]: Could we make these doc-strings a bit more descriptive, I'm not entirely sure what these lemmas are doing here.

File: PhysLean/Relativity/Tensors/ComplexTensor/SlotRepr.lean [hunk 4]
```diff
@@ -0,0 +1,111 @@
...
+  simp only [complexLorentzTensor.basis_up_eq]
+  erw [Lorentz.complexContrBasis_reindex_apply_eq_fin4]
+  simp_rw [complexLorentzTensor.basis_eq_complexContrBasisFin4,
+    Lorentz.complexContrBasisFin4_eq_reindex]
+  rw [Basis.repr_reindex_apply, Basis.reindex_apply]
+  simp_rw [complexLorentzTensor.FD_obj_up]
+  conv_lhs => erw [← LinearMap.toMatrix_apply]
+  exact (Lorentz.complexContrBasis_ρ_apply (M := Λ)
+    (i := finSumFinEquiv.symm (Fin.cast (by rw [h]; rfl) (i k)))
+    (j := finSumFinEquiv.symm (Fin.cast (by rw [h]; rfl) (b k))))
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Tensors/ComplexTensor/SlotRepr.lean]: I don't actually think you need the `k` in this lemma. I.e. just define what would be equivalent to `c k`, `b k` and `i k`.  This should generalize this, and it should still work where you need it to. 

I also think it might be worth working out why all the `erw`'s are needed, as they make the proof pretty difficult. I think it is down to some def-eq abuse in some of the lemmas, in particular `complexLorentzTensor.basis_eq_complexContrBasisFin4`.

Comment (kastch) [reply PhysLean/Relativity/Tensors/ComplexTensor/SlotRepr.lean]: Totally agreed. I've simplified lemmas, and moved the whole file to Vector folder for better organization.

File: PhysLean/Relativity/Tensors/ComplexTensor/Vector/SlotRepr.lean [hunk 5]
```diff
@@ -0,0 +1,111 @@
...
+
+open TensorSpecies Tensor Lorentz Lorentz.SL2C Matrix MatrixGroups Complex CategoryTheory Module
+
+/--
+Component formula for the standard contravariant vector slot `Color.up`.
+
+For `b, i : Fin 4`, the `i`-component of `ρ Λ` on `basis Color.up b` equals the corresponding entry
+of `LorentzGroup.toComplex (SL2C.toLorentzGroup Λ)` in `Fin 1 ⊕ Fin 3` coordinates.
+-/
+lemma repr_ρ_basis_vector_up (Λ : SL(2, ℂ)) (b i : Fin 4) :
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Tensors/ComplexTensor/Vector/SlotRepr.lean]: Thanks for adding these doc-strings.  I thin we could put these in ...ComplexTensor.Basic for now

File: PhysLean/Relativity/Tensors/RealTensor/ToComplex.lean [hunk 6]
```diff
@@ -235,11 +434,80 @@ Finally we record that `toComplex` is equivariant for the natural action of
 -/
 
 /-- The map `toComplex` is equivariant. -/
-@[sorryful]
 lemma toComplex_equivariant {n} {c : Fin n → realLorentzTensor.Color}
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Tensors/RealTensor/ToComplex.lean:436]: would opening the namespace `complexLorentzTensor` help golf these results?

Comment (kastch) [reply PhysLean/Relativity/Tensors/RealTensor/ToComplex.lean:436]: Hi @jstoobysmith ! Actually it Is open already, but that does not helps too much there - I can use it only for a few things, most of all the long namings are due to either structure fields or due to having the realLorenzTensor (which is where the code resides) and complexLorenzTensor opened at the same time (thus I can't just use Color instead of complexLorentzTensor.Color for instance - it would default to the Real one).
THat definitely could be achieved if needed but with larger refactoring.
If larger refactoring is really needed I suggest doing it as a separate task in Tensors (maybe the one I'm going to make the next PR on - https://github.com/leanprover-community/physlib/issues/941 ) but please let me know your thoughts.

**Review by jstoobysmith — APPROVED** [review]
Approving this. Many thanks for iterating with me on this. Will merge shortly
